US06204221B1
3-(3-Fluoro-5-chloro-6-formyl-2-pyridyl)-4-chloro-5-difluoromethoxy-1-methyl-[1H]-pyrazole
13.2 g of 3-(3-fluoro-5-chloro-6-vinyl-2-pyridyl)-4-chloro-5-difluoromethoxy-1-methyl-[1 H]-pyrazole (Example H35) are initially introduced into a mixture of 120 ml of dioxane and 40 ml of water. 16.7 g of sodium (meta)periodate (NalO4) and a spatula-tip of osmium tetroxide are added, while stirring, and the mixture is subsequently stirred overnight at 22° C. The following day, the resulting mixture is taken up in ethyl acetate and washed first with dilute hydrochloric acid and then with brine. After drying over sodium sulfate, the mixture is filtered and the filtrate is concentrated in vacuo. After purification over a silica gel flash column (eluting agent: n-hexane/ethyl acetate 2/1), 9.4 g of the desired title compound are obtained as a white solid of melting point 120-121° C.

reactant | 3-(3-fluoro-5-chloro-6-vinyl-2-pyridyl)-4-chloro-5-difluoromethoxy-1-methyl-[1 H]-pyrazole | 13.2 g | FC=1C(=NC(=C(C1)Cl)C=C)C1=NN(C(=C1Cl)OC(F)F)C | C12H8Cl2F3N3O
reactant | dioxane | 120 ml | O1CCOCC1 | C4H8O2
reactant | water | 40 ml | O | H2O
reactant | sodium (meta)periodate | 16.7 g | [O-]I(=O)(=O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | 3-(3-Fluoro-5-chloro-6-formyl-2-pyridyl)-4-chloro-5-difluoromethoxy-1-methyl-[1H]-pyrazole | FC=1C(=NC(=C(C1)Cl)C=O)C1=NN(C(=C1Cl)OC(F)F)C | C11H6Cl2F3N3O2
